US05364844
25(b) (2S, 4S, 5S)-5-{N-[2(R)-Benzyl-3-(morpholinocarbonyl)propionyl]-3-(4-thiazolyl)-L-alanyl}amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-butylhexanamide
A mixture of 200.7 mg (0.336 mmole) of (2S, 4S, 5S)-5-[N-(t-butylcarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-butylhexanamide in 6 ml of a 4N solution of hydrogen chloride in dioxane was stirred at room temperature for 30 minutes under an atmosphere of nitrogen. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and then benzene was added to the residue. The solvent was removed by distillation under reduced pressure from the resulting solution. The same operation was repeated, in total, three times, and the residue was then dried by evaporation under reduced pressure for 8 hours. The dried material was then suspended in 10 ml of anhydrous tetrahydrofuran, and 98.2 mg (0.354 mmole) of 2(R)-benzyl-3-(morpholinocarbonyl)propionic acid were added to the suspension. 0.06 ml (0.396 mmole) of 95% diethyl cyanophosphate and 0.2 ml (0.143 mmole) of triethylamine were then added to the resulting mixture, whilst ice-cooling and under an atmosphere of nitrogen. The mixture was then stirred for 8 hours, after which the solvent was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (using a 20:1 by volume mixture of methylene chloride and methanol as eluent), followed by recrystallization from a mixture of ethyl acetate and diisopropyl ether, to give 229.8 mg of the title compound as white crystals, melting at 92°-95° C.

reactant | (2S, 4S, 5S)-5-[N-(t-butylcarbonyl)-3-(4-thiazolyl)-L-alanyl]amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-butylhexanamide | 0.336 mmole, 200.7 mg | C(C)(C)(C)C(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCC)C(C)(C)O)O)CC1CCCCC1 | C30H52N4O5S
reactant | hydrogen chloride | Cl | ClH
reactant | 2(R)-benzyl-3-(morpholinocarbonyl)propionic acid | 0.354 mmole, 98.2 mg | C(C1=CC=CC=C1)[C@@H](C(=O)O)CC(=O)N1CCOCC1 | C15H19NO4
reactant | diethyl cyanophosphate | 0.396 mmole, 0.06 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 0.143 mmole, 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S, 4S, 5S)-5-{N-[2(R)-Benzyl-3-(morpholinocarbonyl)propionyl]-3-(4-thiazolyl)-L-alanyl}amino-6-cyclohexyl-4-hydroxy-2-(1-hydroxy-1-methylethyl)-N-butylhexanamide | 229.8 mg | C(C1=CC=CC=C1)[C@@H](C(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@H]([C@H](C[C@H](C(=O)NCCCC)C(C)(C)O)O)CC1CCCCC1)CC(=O)N1CCOCC1 | C40H61N5O7S
